* NGSPICE file created from Angel_row_block.ext - technology: gf180mcuD

.subckt inv_1 VNW VPW a_2374_6271# a_2254_6227# a_2166_6271# a_2186_6775#
X0 a_2374_6271# a_2254_6227# a_2166_6271# VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X1 a_2374_6271# a_2254_6227# a_2186_6775# VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
.ends

.subckt nfet$1 a_30_1260# a_254_0# a_190_1260# a_350_1260# a_414_0# a_n84_0# a_94_0#
+ a_510_1260# a_574_0# a_696_0#
X0 a_254_0# a_190_1260# a_94_0# a_696_0# nfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X1 a_574_0# a_510_1260# a_414_0# a_696_0# nfet_03v3 ad=3.66p pd=13.22u as=1.56p ps=6.52u w=6u l=0.28u
X2 a_94_0# a_30_1260# a_n84_0# a_696_0# nfet_03v3 ad=1.56p pd=6.52u as=3.66p ps=13.22u w=6u l=0.28u
X3 a_414_0# a_350_1260# a_254_0# a_696_0# nfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
.ends

.subckt pfet$1 a_1534_0# a_1054_0# a_734_0# a_508_1260# a_1694_0# a_254_0# a_1308_1260#
+ a_894_0# a_668_1260# a_1468_1260# a_1214_0# a_828_1260# a_28_1260# a_1854_0# a_414_0#
+ a_n92_0# a_1628_1260# a_1374_0# a_94_0# a_188_1260# a_574_0# a_988_1260# a_1788_1260#
+ a_348_1260# a_1148_1260# w_n230_n138#
X0 a_1214_0# a_1148_1260# a_1054_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X1 a_734_0# a_668_1260# a_574_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X2 a_254_0# a_188_1260# a_94_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X3 a_574_0# a_508_1260# a_414_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X4 a_1534_0# a_1468_1260# a_1374_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X5 a_1374_0# a_1308_1260# a_1214_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X6 a_1054_0# a_988_1260# a_894_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X7 a_894_0# a_828_1260# a_734_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X8 a_94_0# a_28_1260# a_n92_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=3.9p ps=13.3u w=6u l=0.28u
X9 a_414_0# a_348_1260# a_254_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
X10 a_1854_0# a_1788_1260# a_1694_0# w_n230_n138# pfet_03v3 ad=3.9p pd=13.3u as=1.56p ps=6.52u w=6u l=0.28u
X11 a_1694_0# a_1628_1260# a_1534_0# w_n230_n138# pfet_03v3 ad=1.56p pd=6.52u as=1.56p ps=6.52u w=6u l=0.28u
.ends

.subckt transmission_gate_2 I VDDd VSSd ZN Pin Bus
Xinv_1_0 VDDd VSSd ZN I VSSd VDDd inv_1
Xnfet$1_0 I Pin I I Bus Pin Bus I Pin VSSd nfet$1
Xpfet$1_0 Pin Bus Bus ZN Bus Pin ZN Pin ZN ZN Pin ZN ZN Pin Bus Pin ZN Bus Bus ZN
+ Pin ZN ZN ZN ZN VDDd pfet$1
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__latq_1 VSS D E VDD VNW VPW a_1908_69#
X0 VSS a_1020_652# a_1908_69# VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
X1 a_504_110# a_36_92# VDD VNW pfet_05v0 ad=0.44p pd=2.88u as=0.476p ps=2.18u w=1u l=0.5u
X2 VDD a_1020_652# a_1908_69# VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X3 a_1264_107# a_36_92# a_1020_652# VPW nfet_05v0 ad=0.263p pd=1.49u as=0.182p ps=1.22u w=0.7u l=0.6u
X4 VSS E a_36_92# VPW nfet_05v0 ad=0.263p pd=1.49u as=0.3476p ps=2.46u w=0.79u l=0.6u
X5 VSS a_1364_532# a_1264_107# VPW nfet_05v0 ad=0.2054p pd=1.31u as=0.263p ps=1.49u w=0.79u l=0.6u
X6 VDD E a_36_92# VNW pfet_05v0 ad=0.476p pd=2.18u as=0.6072p ps=3.64u w=1.38u l=0.5u
X7 VDD a_1364_532# a_1224_652# VNW pfet_05v0 ad=0.3588p pd=1.9u as=0.426p ps=2.08u w=1.38u l=0.5u
X8 a_872_652# D VDD VNW pfet_05v0 ad=0.12p pd=1.24u as=0.44p ps=2.88u w=1u l=0.5u
X9 a_1364_532# a_1020_652# VDD VNW pfet_05v0 ad=0.6072p pd=3.64u as=0.3588p ps=1.9u w=1.38u l=0.5u
X10 a_1020_652# a_504_110# a_872_107# VPW nfet_05v0 ad=0.182p pd=1.22u as=83.99999f ps=0.94u w=0.7u l=0.6u
X11 a_872_107# D VSS VPW nfet_05v0 ad=83.99999f pd=0.94u as=0.308p ps=2.28u w=0.7u l=0.6u
X12 a_1020_652# a_36_92# a_872_652# VNW pfet_05v0 ad=0.26p pd=1.52u as=0.12p ps=1.24u w=1u l=0.5u
X13 a_504_110# a_36_92# VSS VPW nfet_05v0 ad=0.308p pd=2.28u as=0.263p ps=1.49u w=0.7u l=0.6u
X14 a_1364_532# a_1020_652# VSS VPW nfet_05v0 ad=0.3476p pd=2.46u as=0.2054p ps=1.31u w=0.79u l=0.6u
X15 a_1224_652# a_504_110# a_1020_652# VNW pfet_05v0 ad=0.426p pd=2.08u as=0.26p ps=1.52u w=1u l=0.5u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__nand2_1 VSS A1 A2 VDD ZN VNW VPW
X0 ZN A2 VDD VNW pfet_05v0 ad=0.4277p pd=2.165u as=0.7238p ps=4.17u w=1.645u l=0.5u
X1 VDD A1 ZN VNW pfet_05v0 ad=0.7238p pd=4.17u as=0.4277p ps=2.165u w=1.645u l=0.5u
X2 ZN A1 a_245_69# VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.2112p ps=1.64u w=1.32u l=0.6u
X3 a_245_69# A2 VSS VPW nfet_05v0 ad=0.2112p pd=1.64u as=0.5808p ps=3.52u w=1.32u l=0.6u
.ends

.subckt gf180mcu_fd_sc_mcu9t5v0__inv_1 VSS I VDD ZN VNW VPW
X0 ZN I VDD VNW pfet_05v0 ad=0.8052p pd=4.54u as=0.8052p ps=4.54u w=1.83u l=0.5u
X1 ZN I VSS VPW nfet_05v0 ad=0.5808p pd=3.52u as=0.5808p ps=3.52u w=1.32u l=0.6u
.ends

.subckt DFF_2phase_1 D PHI_1 Q I EN PHI_2 VDD VSS
Xgf180mcu_fd_sc_mcu9t5v0__latq_1_0 VSS gf180mcu_fd_sc_mcu9t5v0__latq_1_0/D PHI_2 VDD
+ VDD VSS Q gf180mcu_fd_sc_mcu9t5v0__latq_1
Xgf180mcu_fd_sc_mcu9t5v0__latq_1_1 VSS D PHI_1 VDD VDD VSS gf180mcu_fd_sc_mcu9t5v0__latq_1_0/D
+ gf180mcu_fd_sc_mcu9t5v0__latq_1
Xgf180mcu_fd_sc_mcu9t5v0__nand2_1_0 VSS EN Q VDD gf180mcu_fd_sc_mcu9t5v0__inv_1_0/I
+ VDD VSS gf180mcu_fd_sc_mcu9t5v0__nand2_1
Xgf180mcu_fd_sc_mcu9t5v0__inv_1_0 VSS gf180mcu_fd_sc_mcu9t5v0__inv_1_0/I VDD I VDD
+ VSS gf180mcu_fd_sc_mcu9t5v0__inv_1
.ends

.subckt Angel_one_SW_block transmission_gate_2_0/VDDd transmission_gate_2_0/Bus DFF_2phase_1_0/D
+ transmission_gate_2_0/Pin DFF_2phase_1_0/VDD DFF_2phase_1_0/PHI_2 DFF_2phase_1_0/PHI_1
+ DFF_2phase_1_0/Q DFF_2phase_1_0/EN VSUBS
Xtransmission_gate_2_0 DFF_2phase_1_0/I transmission_gate_2_0/VDDd VSUBS transmission_gate_2_0/ZN
+ transmission_gate_2_0/Pin transmission_gate_2_0/Bus transmission_gate_2
XDFF_2phase_1_0 DFF_2phase_1_0/D DFF_2phase_1_0/PHI_1 DFF_2phase_1_0/Q DFF_2phase_1_0/I
+ DFF_2phase_1_0/EN DFF_2phase_1_0/PHI_2 DFF_2phase_1_0/VDD VSUBS DFF_2phase_1
.ends

.subckt Angel_row_block VDD VSS PHI_1 D_out Pin BUS[1] BUS[2] BUS[3] BUS[4] BUS[5]
+ BUS[6] BUS[7] BUS[8] BUS[9] BUS[10] BUS[11] BUS[12] BUS[13] BUS[14] BUS[15] BUS[16]
+ EN PHI_2
XAngel_one_SW_block_0[0] VDD BUS[1] Angel_one_SW_block_0[0]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[1]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[1] VDD BUS[2] Angel_one_SW_block_0[1]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[2]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[2] VDD BUS[3] Angel_one_SW_block_0[2]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[3]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[3] VDD BUS[4] Angel_one_SW_block_0[3]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[4]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[4] VDD BUS[5] Angel_one_SW_block_0[4]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[5]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[5] VDD BUS[6] Angel_one_SW_block_0[5]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[6]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[6] VDD BUS[7] Angel_one_SW_block_0[6]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[7]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[7] VDD BUS[8] Angel_one_SW_block_0[7]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[8]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[8] VDD BUS[9] Angel_one_SW_block_0[8]/DFF_2phase_1_0/D Pin VDD
+ PHI_2 PHI_1 Angel_one_SW_block_0[9]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[9] VDD BUS[10] Angel_one_SW_block_0[9]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[9]/DFF_2phase_1_0/Q EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[10] VDD BUS[11] Angel_one_SW_block_0[9]/DFF_2phase_1_0/Q Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[11]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[11] VDD BUS[12] Angel_one_SW_block_0[11]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[12]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[12] VDD BUS[13] Angel_one_SW_block_0[12]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[13]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[13] VDD BUS[14] Angel_one_SW_block_0[13]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[14]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[14] VDD BUS[15] Angel_one_SW_block_0[14]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 Angel_one_SW_block_0[15]/DFF_2phase_1_0/D EN VSS Angel_one_SW_block
XAngel_one_SW_block_0[15] VDD BUS[16] Angel_one_SW_block_0[15]/DFF_2phase_1_0/D Pin
+ VDD PHI_2 PHI_1 D_out EN VSS Angel_one_SW_block
.ends

